US06274590B1
Potassium thioacetate (2.28 g, 20 mmol) was added to a solution of 2-bromo-4′-methoxy acetophenone (4.58 g, 20 mmol) in absolute ethanol (150 ml). the reaction was stirred at ambient temperature under nitrogen for 16 hours at which time the white precipitate that had formed was filtered and the ethanol removed at reduced pressure. The residue was dissolved in dichloromethane (250 ml) and washed with water (200 ml), brine (200 ml), dried over Na2SO4 and the solvent removed at reduced pressure. The resulting residue was chromatographed on silica with a gradient from 10%-35% ethyl acetate in hexane to yield 3.4 g (76%) of 2-thioacetyl-4′-methoxy acetophenone. 1H NMR (CDCl3) δ 2.36 p (s, 3h), 3.84 (s, 3h), 4.33 (s, 2h), 6.9 (d, 2h, J=9.2 Hz), 7.9 (d, 2h, J=9.2 Hz).

reactant | Potassium thioacetate | 20 mmol, 2.28 g | C(C)(=S)[O-].[K+]
reactant | 2-bromo-4′-methoxy acetophenone | 20 mmol, 4.58 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-thioacetyl-4′-methoxy acetophenone | 3.4 g, 76% | C(C)(=S)CC(=O)C1=CC=C(C=C1)OC | C11H12O2S
